US04777281
Step B: 2-[(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]ethanimidamide hydrochloride
To a solution of 2-[(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile (200 mg, 0.549 mmole) in methanol (3 ml ) is added sodium methoxide (10 mg). After stirring for 1 hour ammonium chloride (53.5 mg, 1 mmole) is added and stirring is continued for 2 hours. The reaction mixture is poured into ice water containing 0.5 ml of 10N sodium hydroxide extracted with ether, washed with water dried over potassium carbonate, filtered and acidified with 10N ethanolic hydrochloric acid to precipitate 2-[(3,4-Dichloro-6,7,8,8a,8,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]ethanimidamide hydrochloride.

reactant | 2-[(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile | 0.549 mmole, 200 mg | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC#N | C19H19Cl2NO2
reactant | sodium methoxide | 10 mg | C[O-].[Na+]
reactant | ammonium chloride | 1 mmole, 53.5 mg | [Cl-].[NH4+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 2-[(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]ethanimidamide hydrochloride | Cl.ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC(N)=N | InChI=1S/C19H22Cl2N2O2.ClH/c1-2-5-19-6-3-11-8-14(25-10-15(22)23)17(20)18(21)16(11)13(19)9-12(24)4-7-19;/h8-9H,2-7,10H2,1H3,(H3,22,23);1H
